US07514451B2
Process B: (3R,4S)-4-[(1S,2R)-1,2,3-Trihydroxypropyl]pyrrolidin-3-ol (0.76 g) and triethylamine (0.60 mL) were dissolved in N,N-dimethylacetamide (12 mL). While this solution was chilled in an ice water bath, benzyl chloroformate (0.58 mL) was added dropwise and the mixture was stirred for 1 hour, followed by addition of tetrahydrofuran (12 mL) and further stirring for 30 min. The insoluble material in the reaction mixture was then filtered and washed with a 1:1 mixture of N,N-dimethylacetamide and tetrahydrofuran. The filtrate and the washings were combined and concentrated under reduced pressure. The resulting residue was dissolved in a mixture of ethanol (32 mL) and water (7 mL), followed by addition of sodium periodate (1.85 g) and stirring at room temperature for 1 hour. The insoluble material in the reaction mixture was filtered and washed with ethanol. The filtrate and the washings were combined and sodium borohydride (242 mg) was added. This was followed by stirring at room temperature for 1 hour, addition of acetone (2 mL) and concentration under reduced pressure. The resulting residue was dissolved in ethyl acetate (100 mL), washed with saturated brine (2×20 mL), dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: ethyl acetate: methanol=20:1) to give (3R,4R)-(1-benzyloxycarbonyl-4-hydroxypyrrolidin-3-yl)methanol as a milky white syrup (828 mg).

reactant | (3R,4S)-4-[(1S,2R)-1,2,3-Trihydroxypropyl]pyrrolidin-3-ol | 0.76 g | O[C@H]([C@@H](CO)O)[C@@H]1[C@H](CNC1)O | C7H15NO4
reactant | triethylamine | 0.60 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 0.58 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 12 mL | CN(C(C)=O)C | C4H9NO
product | (3R,4R)-(1-benzyloxycarbonyl-4-hydroxypyrrolidin-3-yl)methanol | 828 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)O)CO | C13H17NO4
